US04107188
A mixture of 7.25 g of 7-(3α,12α-diacetoxy-5β-pregnane-20-yl)-trans,trans-2,4-heptadienoic acid ethyl ester and 57 ml of 5N aqueous sodium hydroxide solution was stirred and refluxed for 1.5 hr. At the end of this time, 500 ml of water was added and the mixture heated to reflux. The cloudy solution was cooled, charcoal added and the mixture was filtered through a bed of diatomaceous earth. The filtrate was cooled to 0° and made acidic (pH3) by the dropwise addition of concentrated aqueous hydrochloric acid. The precipitate was filtered and air dried overnight under house vacuum. Crystallization from methyl ethyl ketone afforded 4 g of 7-(3α,12α-dihydroxy-5β-pregnane-20-yl)-trans,trans-3,5-heptadienoic acid, mp 208°-211°.

reactant | 7-(3α,12α-diacetoxy-5β-pregnane-20-yl)-trans,trans-2,4-heptadienoic acid ethyl ester | 7.25 g | C(C)OC(\C=C\C=C\CCC(C)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@@H](CC[C@]4(C)[C@H]3C[C@@H]([C@]12C)OC(C)=O)OC(C)=O)=O | C34H52O6
reactant | sodium hydroxide | 5N, 57 ml | [OH-].[Na+]
reactant | charcoal | C | CH4
solvent | water | 500 ml | O | H2O
product | 7-(3α,12α-dihydroxy-5β-pregnane-20-yl)-trans,trans-3,5-heptadienoic acid | 4 g | O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)C/C=C/C=C/CC(=O)O)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C | C28H44O4
